US06100398
The above general procedure was followed using 2-bromotoluene (171 mg, 1.10 mmol) and morpholine (87 mg, 1.00 mmol) with 1 mol % Pd(OAc)2 and 0.8 mol % tri-t-butylphosphine in 1.0 mL of toluene. After 6 hours, the reaction mixture was adsorbed onto silica gel and chromatographed using 5% ethyl acetate/hexanes to give 179 mg (>99%) of N-(2-methylphenyl)morpholine. 1H NMR (500 MHz, CDCl3) δ 7.20 (d J=7.4 Hz, 1H), 7.18 (d, J=7.4 Hz, 1H), 7.03 (d, J=7.4 Hz, 1H), 7.01 (d, J=7.4 Hz, 1H), 3.86 (t, J=4.5 Hz, 4H), 2.92 (t, J=4.5 Hz, 4H), 2.33 (s, 3H). 13C NMR (125 MHz, CDCl3) δ 151.4, 132.7, 131.2, 126.7, 123.5, 119.0, 67.5, 52.4, 17.8.

reactant | 2-bromotoluene | 1.10 mmol, 171 mg | BrC1=C(C=CC=C1)C | C7H7Br
reactant | morpholine | 1.00 mmol, 87 mg | N1CCOCC1 | C4H9NO
reactant | tri-t-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N-(2-methylphenyl)morpholine | 179 mg, >99% | CC1=C(C=CC=C1)N1CCOCC1 | C11H15NO
